US08710039B2
To the solution of (S)-benzyl 5-(benzylamino)-4-(6-(dimethylamino)-2-naphthamido)-5-oxopentylcarbamate (80 mg, 0.145 mmol) in methanol (10 ml) of was added Pd/C (10%) 10 mg. The reaction mixture was stirred under H2 balloon for 8 hr at rt. After filtration the filtrate was evaporated in vacuo and the residue was triturated with ether repeatedly to provide (S)—N-(5-amino-1-(benzylamino)-1-oxopentan-2-yl)-6-(dimethylamino)-2-naphthamide as colorless powder.

reactant | (S)-benzyl 5-(benzylamino)-4-(6-(dimethylamino)-2-naphthamido)-5-oxopentylcarbamate | 0.145 mmol, 80 mg | C(C1=CC=CC=C1)NC([C@H](CCCNC(OCC1=CC=CC=C1)=O)NC(=O)C1=CC2=CC=C(C=C2C=C1)N(C)C)=O | C33H36N4O4
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | (S)—N-(5-amino-1-(benzylamino)-1-oxopentan-2-yl)-6-(dimethylamino)-2-naphthamide | NCCC[C@@H](C(=O)NCC1=CC=CC=C1)NC(=O)C1=CC2=CC=C(C=C2C=C1)N(C)C | C25H30N4O2
